US07799805B2
[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2-fluoro-ethyl)-carbamic acid tert-butyl ester
A mixture of 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde (1.50 g, 5.27 mmol), DIPEA (1.80 mL, 10.5 mmol) and 2-fluoroethylamine hydrochloride (873 mg, 7.90 mmol) in MeOH (53 mL) was heated to reflux for 4 h. The reaction was allowed to cool to rt, and NaBH4 (300 mg, 7.91 mmol) was added in portions. The mixture was stirred for 1 h, and the solvents were removed under reduced pressure. EtOAc (100 mL) was added, and the mixture was washed with aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield the crude [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2-fluoro-ethyl)-amine. This crude product was dissolved in CH2Cl2 (70 mL). DIPEA (2.70 mL, 15.8 mmol) was added, followed by Boc2O (1.70 g, 7.91 mmol). The mixture was stirred at rt for 1 h. The mixture was diluted with CH2Cl2 (50 mL), and was washed with aq. 1M HCl, aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 10:90) yielded the title compound (1.92 g, 85%). LC-MS: tR=1.22 min; ES+: 417.17.

reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde | 5.27 mmol, 1.50 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=O)C=CC1Cl)(C)C | C14H21ClO2Si
reactant | DIPEA | 10.5 mmol, 1.80 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-fluoroethylamine hydrochloride | 7.90 mmol, 873 mg | Cl.FCCN
reactant | NaBH4 | 7.91 mmol, 300 mg | [BH4-].[Na+]
reactant | DIPEA | 15.8 mmol, 2.70 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 7.91 mmol, 1.70 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 53 mL | CO | CH4O
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | [3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2-fluoro-ethyl)-carbamic acid tert-butyl ester | 1.92 g, 85% | C(C)(C)(C)OC(N(CCF)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C21H35ClFNO3Si
